US04981648
Tetraethyl ethylene glycol di-(phosphonomethyl) ether prepared in this manner (1.2 g, 3.3 mmol) in 15 ml concentrated hydrochloric acid was heated to reflux for 3 hours. An additional 5 ml of acid was added and the reflux continued for another 7.5 hours. After standing overnight at room temperature, the solution was concentrated under vacuum. The residue was dissolved in water and washed with hexane. Concentration under vacuum gave 0.6 g of ethyleneglycol di-(phosphonomethyl) ether (i.e. "EDPME"). The structure of the ethyleneglycol di-(phosphonomethyl) ether was verified by nuclear magnetic resonance spectroscopy (carbon-13, proton, and phosphorous) as well as fast atom bombardment mass spectrometry.

reactant | Tetraethyl ethylene glycol di-(phosphonomethyl) ether | P(=O)(O)(O)COC(C(CC)(CC)OCP(=O)(O)O)(CC)CC | C12H28O8P2
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | ethyleneglycol di-(phosphonomethyl) ether | 0.6 g | P(=O)(O)(O)COCCOCP(=O)(O)O | C4H12O8P2
